US09163011B2
g) N—[(R)-4-(6-Bromo-3-fluoro-pyridin-2-yl)-5,5-difluoro-4-(2-methoxy-ethyl)-5,6-dihydro-4H-[1,3]oxazin-2-yl]-4-nitro-benzamide
To a solution of (R)-3-amino-3-(6-bromo-3-fluoro-pyridin-2-yl)-2,2-difluoro-5-methoxy-pentan-1-ol (1.15 g, 3.35 mmol) in THF (27.9 ml) was added nitrobenzoyl-isothiocyanate (767 mg, 3.69 mmol). After stirring at rt for 4 hr DCC (760 mg, 3.69 mmol) and triethylamine (34.1 mg, 0.337 mmol) was added. Stirring was continued at rt for 19 hr and finally, the reaction mixture was kept at 70° C. for 5 h. The yellow-orange solution was cooled and evaporated in vacuo. The crude product (2.7 g) was chromatographed over silica gel (Redisep column 120 g, cyclohexane/ethyl acetate 7:3) to give the title compound as a light yellow foam. 650 mg (35.6% yield).

reactant | (R)-3-amino-3-(6-bromo-3-fluoro-pyridin-2-yl)-2,2-difluoro-5-methoxy-pentan-1-ol | 3.35 mmol, 1.15 g | N[C@](C(CO)(F)F)(CCOC)C1=NC(=CC=C1F)Br | C11H14BrF3N2O2
reactant | nitrobenzoyl-isothiocyanate | 3.69 mmol, 767 mg | [N+](=O)([O-])C1=C(C(=O)N=C=S)C=CC=C1 | C8H4N2O3S
reactant | DCC | 3.69 mmol, 760 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | triethylamine | 0.337 mmol, 34.1 mg | C(C)N(CC)CC | C6H15N
reactant | THF | 27.9 ml | C1CCOC1 | C4H8O
product | N—[(R)-4-(6-Bromo-3-fluoro-pyridin-2-yl)-5,5-difluoro-4-(2-methoxy-ethyl)-5,6-dihydro-4H-[1,3]oxazin-2-yl]-4-nitro-benzamide | 35.6% yield | BrC1=CC=C(C(=N1)[C@]1(N=C(OCC1(F)F)NC(C1=CC=C(C=C1)[N+](=O)[O-])=O)CCOC)F | C19H16BrF3N4O5
